US07348438B2
2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-(4-nitro-phenyl)-ethanone
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (304 mg) in DMF (5 mL) was added sodium hydride (68 mg of 60% in oil dispersion). The resulting mixture was stirred at room temperature for 5 min. To the dark green solution was added 2-bromo-4′nitroacetophenone (348 mg) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as an orange colored solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 304 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | sodium hydride | 68 mg | [H-].[Na+]
reactant | 2-bromo-4′nitroacetophenone | 348 mg | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-(4-nitro-phenyl)-ethanone | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1Cl | C17H10Cl2F3N3O3
